US05955495
A solution of 5.8 g (33.7 mmol) of 4,5-difluoro-2-methoxybenzaldehyde in 400 ml of anhydrous dichloromethane was treated dropwise at -70° while stirring over a period of 10 minutes with 37 ml (37 mmol) of a 1 M boron tribromide solution in dichloromethane. Subsequently, the mixture was stirred at room temperature for 16 hours, poured on to 400 ml of ice-water and the phases were separated. The aqueous phase was extracted once with 400 ml of dichloromethane and the combined organic phases were washed once with 200 ml of saturated sodium chloride solution, dried over magnesium sulphate and concentrated in a vacuum. The crude product obtained was purified by column chromatography on silica gel (hexane/ethyl acetate 4:1). There were obtained 5.05 g (94%) of 4,5-difluoro-2-hydroxybenzaldehyde as a white solid with m.p. 64°.

reactant | 4,5-difluoro-2-methoxybenzaldehyde | 33.7 mmol, 5.8 g | FC1=CC(=C(C=O)C=C1F)OC | C8H6F2O2
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 4,5-difluoro-2-hydroxybenzaldehyde | 5.05 g, 94% | FC1=CC(=C(C=O)C=C1F)O | C7H4F2O2
